US06048994
871 mg Of divinylbenzene and 4.35 g of triethoxysilane were placed in a glass reaction tube and 0.005 ml of acetic acid was added. Next, 0.015 ml of a toluene solution of a 0-valent platinum complex of divinyltetramethyldisiloxane (platinum content: 0.2 Wt. %) was added to this mixture. The reaction tube was sealed with a Teflon tape and heated for 30 minutes in an oil bath at 50° C. When the tube contents were analyzed by gas chromatography following cooling, the conversion rate of divinylbenzene was 99%; bis (2-triethoxysilylethyl) benzene was produced at a yield of 97%, (1-triethoxysilylethyl) (2-triethoxysilylethyl) benzene was produced at a yield of 1.6%, and (triethoxysilyl)ethylstyrene was produced at a yield of 0.1%. No production of bis (1-triethoxysilylethyl)benzene was observed.

reactant | divinylbenzene | 871 mg | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | triethoxysilane | 4.35 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | acetic acid | 0.005 ml | C(C)(=O)O | C2H4O2
reactant | divinyltetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
solvent | toluene | 0.015 ml | C1(=CC=CC=C1)C | C7H8
product | bis (2-triethoxysilylethyl) benzene | yield of 97% | C(C)O[Si](CCC1=C(C=CC=C1)CC[Si](OCC)(OCC)OCC)(OCC)OCC | C22H42O6Si2
